US06531474B1
(2-Isobutoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic Acid Allyl Ester
Prepared from 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester as described for 40 using isobutanol to afford 190 mg (yield 7.3%) of the title compound as an anti diastereomer and 290 mg (yield 11%) of the syn diastereomer. 1H-NMR (500 MHz, CDCl3) for anti diastereomer: δ (higher Rf) 0.85-1.05 (m, 6H), 1.82-1.98 (m, H), 2.37-2.42 (d, H), 2.98-3.04 (m, H), 3.31-3.35 (m, H), 3.55-3.58 (m, H), 4.20-4.30 (t, H), 4.58 (br, 2H), 5.07 (br, H), 5.22-5.43 (m, 3H), 5.84-5.96 (m, H), for syn diastereomer (lower Rf) 0.85-1.05 (m, 6H), 1.88-1.95 (m, H), 2.40-2.51 (m, H), 2.83-2.90 (m, H), 3.33-3.36 (m, H), 3.61-3.65 (m, H), 3.87-3.88 (d, H), 4.40-4.68 (m, 3H), 5.20-5.40 (m, 2H), 5.42-5.43 (d, H), 5.80-5.97 (m, H); LC-MS: m/z=258 (M+H+) for both of diastereomers.

reactant | 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(CO)NC(=O)OCC=C)=O | C12H21NO5
reactant | isobutanol | C(C(C)C)O | C4H10O
product | (2-Isobutoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic Acid Allyl Ester | 190 mg, yield 7.3% | C(C=C)OC(NC1C(OC(C1)=O)OCC(C)C)=O | C12H19NO5
